US05756799
A solution of [Rh(COD)(R-1a)]BF4 (27 μl, 1.8×10-4 mmol) (prepared in example 4) and 2-acetamidoacrylic acid (580 mg, 4.5 mmol) in 15 ml methanol was charged into a 50 ml autoclave under a nitrogen atmosphere. The autoclave was pressurized with 1350 KPa H2 and the hydrogenation was carried out at room temperature for 1 hour. A portion of the reacting mixture was analyzed by gas chromatography to determine product composition. 100% conversion and 94.0% e.e. for the (R)-2-acetamido-propanoic acid product was obtained. The methanol was evaporated, ethylacetate (10 ml) and activated carbon (2 mg) were added and the mixture was refluxed for 10 min. After filtration, the hot ethyl acetate solution was allowed to cool to 0° C. White crystals were collected and washed with 5 ml of cold ethyl acetate to yield (R)-2-acetamidopropanoic acid (0.513 g) with 99.0% e.e. (87% isolated yield). mp 125° C., [α]D =65.4 (c=1, H2O), 1 H-NMR (400MHz, D2O) δ: 1.16 (d, 3H, J=7.2Hz), 1.77 (s, 3H), 4.07 (q, 1H, J=7.2Hz).

reactant | 2-acetamidoacrylic acid | 4.5 mmol, 580 mg | C(C)(=O)NC(C(=O)O)=C | C5H7NO3
solvent | methanol | 15 ml | CO | CH4O
product | (R)-2-acetamido-propanoic acid | C(C)(=O)N[C@@H](C(=O)O)C | C5H9NO3
